US07528147B2
4-Chloro-2-[1-methyl-5-methoxy-6-benzyloxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 89c, but using 2.5 g of 4-chloro-2-(5-methoxy-6-benzyloxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 0.335 ml of methyl iodide. After purification by flash chromatography (silica, 40/60 by volume ethyl acetate/cyclohexane as eluents, argon), 2.1 g of 4-chloro-2-(1-methyl-5-methoxy-6-benzyloxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained, the characteristics of which are as follows:

reactant | 4-chloro-2-(5-methoxy-6-benzyloxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.5 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CNC1=CC(=C(C=C21)OC)OCC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C30H24ClN3O4S
reactant | methyl iodide | 0.335 ml | CI | CH3I
product | 1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2)C | C14H12N2O2S
